US07238725B2
Step 2: 9-(4-fluoro benzyl)-1-methoxy-4-carbazole carboxylic acid
To a solution of 9-(4-fluoro benzyl)-1-methoxy-4-carbazole carboxylic acid methyl ester (490 mg, 1.35 mmoles) in methanol (15 ml), an aqueous (10 ml) solution of sodium hydroxide (108 mg, 2.7 mmoles) was added and the reaction mixture was refluxed for 6 hours. Methanol was evaporated from the reaction mixture under reduced pressure, acidified the residue with 1N HCl and the precipitated product was filtered washed with water and dried under vacuum, to give 420 mg of the title product

reactant | 9-(4-fluoro benzyl)-1-methoxy-4-carbazole carboxylic acid methyl ester | 1.35 mmoles, 490 mg | COC(=O)C1=CC=C(C=2N(C3=CC=CC=C3C12)CC1=CC=C(C=C1)F)OC | C22H18FNO3
reactant | sodium hydroxide | 2.7 mmoles, 108 mg | [OH-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | 9-(4-fluoro benzyl)-1-methoxy-4-carbazole carboxylic acid | 420 mg | FC1=CC=C(CN2C3=CC=CC=C3C=3C(=CC=C(C23)OC)C(=O)O)C=C1 | C21H16FNO3
